* Sample library of diode model parameters
*
* This is a reduced version of MicroSim's diode model library.
*   You are welcome to make as many copies of it as you find convenient.
*
* Release date: 87/06/22
*
* The parameters in this model library were derived from the data
* sheets for each part.  The methods used were as follows:
*	IS		nominal leakage current
*	RS		for zener diodes: nominal small-signal impedance
*			at specified operating current
*	IB		for zener diodes: set to nominal leakage current
*	IBV		for zener diodes: at specified operating current
*			IBV is adjusted to give the rated zener voltage
*
*
*** Zener Diodes ***
*
* "A" suffix zeners have the same parameters (e.g., 1N750A has the same
* parameters as 1N750)
*
.MODEL	D1N752		D (IS=0.5UA RS=6 BV=5.20 IBV=0.5UA)
.MODEL	D1N754		D (IS=0.05UA RS=3 BV=6.41 IBV=0.05UA)
.MODEL	D1N759		D (IS=0.05UA RS=15 BV=11.37 IBV=0.05UA)
*
*** 1N916 ***
*
.MODEL	D1N914		D (IS=100E-15 RS=16 CJO=2PF TT=12NS BV=100 IBV=100E-15)
.MODEL	D1N916		D (IS=100E-15 RS=8 CJO=1PF TT=12NS BV=100 IBV=100E-15)
*
*
* ------ Follow is Nippon MicroHard Co. Hal.T -------------------
* TTL SBD  Shotkey Barier Diode ina TTL
.model dsbd	D(IS=1E-14 RS=264 CJO=0.06pf VJ=0.5 EG=0.69 TT=0.1ns)

* SBD ìdåπópÇÃÇrÇaÇc
.model dpsbd  	D(IS=2E-3 N=2 RS=0.01
+		CJO=1nf TT=10ns BV=40v IBV=100E-15)

*CQ 1988/7
* HItachi Si EP High speed switch
.model d1s2074	D(IS=1.443E-9 N=1.708 RS=1.466
+		CJO=1.92pf VJ=0.4996 M=0.0605 TT=3ns BV=120 IBV=100E-15)

* HItachi Si EP High speed switch
.model d1s2075	D(IS=1.387E-9 N=1.702 RS=1.53
+		CJO=1.92pf VJ=0.4996 M=0.0605 TT=5ns BV=75  IBV=100E-15)

* HItachi Si EP UHF TV AFC P-64
.model d1s2090	D(RS=2.36 CJO=9.96pf VJ=0.9140 M=0.4199 )

* HItachi Si EP UHF TV AFC P-65
.model d1s2267	D(RS=1.18 CJO=25.6pf VJ=2.6510 M=1.0961 )

* HItachi Si EP UHF TV AFC P-65
.model d1s2268	D(RS=1.00 CJO=25.6pf VJ=2.6510 M=1.0961 )

* Shotkey Barier General ????????
.model d1ss16	D(IS=2.18E-6 N=1.07 RS=2.1
+		CJO=1.13pf VJ=1.336 M=0.2244 TT=0.1ns BV=6v IBV=100E-15)

* High-V Switching
.model d1ss81	D(IS=1.10E-8 N=1.98 RS=2.10
+		CJO=1.33pf VJ=0.149 M=0.1023 TT=50ns BV=250 IBV=100E-15)

* High-V Switching
.model d1ss82	D(IS=1.10E-8 N=1.98 RS=2.10
+		CJO=1.33pf VJ=0.149 M=0.1023 TT=50ns BV=300 IBV=100E-15)

* High-V Switching Origin P136/TR 88 dioade manual
.model ded7tv1  D(IS=9.5E-15 N=15.3 RS=5.5
+		CJO=1.33pf VJ=0.149 M=0.1023 TT=500ns BV=7000 IBV=100E-15)

* Hitachi Si SBD UHF-TV tuner Mixer 1ss86
.model d1ss86	D(IS=1.504e-6 N=1.0914 RS=17.64
+		CJO=1.04pf TT=.1ns BV=20 IBV=100E-15)

* Hitachi Si SBD CATV balanced Mixer
.model d1ss88	D(IS=6.47E-10 N=1.0594 RS=11.933
+		CJO=1.04pf VJ=0.294 M=0.1082 TT=.1ns BV=20 IBV=100E-15)

* Hitachi Si SBD General Detector & High speed SW
.model d1ss106	D(IS=2.35E-5 N=2.524 RS=48.12
+		CJO=1.36pf VJ=0.294 M=0.1635 TT=.1ns BV=40 IBV=100E-15)

* Hitachi Si SBD General Detector & High speed SW
.model d1ss108	D(IS=4.86E-5 N=2.105 RS=58.7
+		CJO=1.62pf VJ=2.267 M=0.2857 TT=.1ns BV=60 IBV=100E-15)

* Hitachi Si EP BAND Switching in UHF/VHF TUNER 1992/09/30 Hal.T
*MIN Vbr=35V @ 10uA,    
*MAX Ir=0.1uA @ Vr=25v Vf=1.0V @ If=10m C=1.2pF @Vr=6V f=1MHz 
*MAX rf=0.9ohm @If=2mAÅ@ìÆçÏíÔçR
*Typ ÉäÅ[ÉhÉCÉìÉ_ÉNÉ^ÉìÉX 3nH
*ìÆçÏâ∑ìxÅ|ÇQÇOÅ`ÇUÇOÅAï€ë∂â∑ìxÅ|ÇTÇTÅ`ÇPÇQÇT
*ãñóeëπé∏ÇPÇTÇOÇçÇvÅAèáìdó¨ç≈ëÂílÇPÇTÇOÇçÇ`ÅAãtìdà≥ç≈ëÂílÇRÇTÇu
*TT Çê›íËÇµÇƒÇSÇRÇOÇlÇgÇöãﬂñTÇ≈ìdó¨Ç∆ÇqÇeíÔçRÇ™àÍívÇ∑ÇÈÇÊÇ§Ç…ÇµÇƒÇ¢ÇÈ
.model d1ss110	D(IS=3e-11 N=1.645 RS=0.45
+		CJO=1.83pf VJ=0.2327 M=0.1599 TT=.02us BV=60 IBV=100E-15)

* SBD General Switchng for UHF-TV Mixer P112
.model d1ss174	D(IS=2.18E-6 N=1.07 RS=2.1
+		CJO=1.13pf VJ=1.336 M=0.2244 TT=3ns BV=35v IBV=100E-15)

* PIN diode 50v 50ma (@100Mhz 1u=5k 10u=2k 100u=300 1m=50 10m=8 IF=ohm)
.model d1sv99 	D(IS=5.67E-10 N=1.9050 RS=0.9725
+		CJO=0.525pf VJ=0.1396 M=0.07550 TT=1us BV=50v IBV=100E-15)

* Hitachi AM tuner VC 1SV134 1v=500pF 4v=130pF 9v=30pF
.model d1sv134	D(CJO=9.17e-10 VJ=4.9775 M=3.3121 BV=70v IBV=100E-15)

* Hitachi GaAs SBD BS-Converter(12GHz) Mixer
* ÇaÇrÉRÉìÉoÅ[É^Å[ópÇPÇìÇîÉ~ÉLÉTópÅ@ÇfÇÅÇ`ÇìÉVÉáÉbÉgÉLÅ[ÉoÉäÉAÉaÉIÅ[Éh
* Vr=4.0V If=50mA If(peak)=150mA
.model dhse11	D(IS=3.43E-13 N=1.166 RS=1.267
+		CJO=0.29pf VJ=0.292 M=0.1293 TT=.01ns BV=5 IBV=100E-15)

* Hitachi BS tuner VC HVU316
* ÇaÇrÉRÉìÉoÅ[É^Å[ópÉoÉäÉLÉÉÉbÉv 
* Vr,C = (1,6.2p),(5,2.45p),(10,1.25p)
.model dhvu316  D(CJO=8.96pf VJ=3.449 M=1.4477 BV=35 IBV=100E-15)

* Fujitsu tuninge VC FC51 FC51A FC51H
* Vr,C = (1,180p),(4,50p),(10,18p)
.model dFC51    D(CJO=308pf VJ=1.460189 M=1.378011 BV=15 IBV=100E-15)

* Zener diode

.model	drd5a	D (IS=0.5uA RS=40 BV=5.00 IBV=0.5uA)
.model	drd6a	D (IS=0.5uA RS=30 BV=6.00 IBV=0.5uA)
.model	drd7a	D (IS=0.5uA RS=12 BV=7.00 IBV=0.5uA)
.model	drd9a	D (IS=0.5uA RS=10 BV=9.00 IBV=0.5uA)
.model	drd11a	D (IS=0.5uA RS=20 BV=11.00 IBV=0.5uA)
.model	drd13a	D (IS=0.5uA RS=25 BV=13.00 IBV=0.5uA)
.model	drd16a	D (IS=0.5uA RS=30 BV=16.00 IBV=0.5uA)
.model	drd19a	D (IS=0.5uA RS=50 BV=19.00 IBV=0.5uA)
.model	drd24a	D (IS=0.5uA RS=100 BV=24.00 IBV=0.5uA)

*-------------------------------------------------------------
* ÇsÇqãZèpÅ@ÇXÇPÅ^ÇUÅ@ÇêÇTÇPÇT
*íËìdà≥É_ÉCÉIÅ[Éh
.model	dz6_8  D(IS=0.1f  RS=.25 BV=6.8 Ibv=20u Nbv=.55 Ibv1=2.0m Nbv1=15
+              Cjo=175pF Vj=.75 Fc=.5 Isr=1.86n M=.55  Tbv1=-20u)

*Vz=6.8v @ 10mA M.Okamura
*-------------------------------------------------------------
* ÇsÇqãZèpÅ@ÇXÇPÅ^ÇWÅ@ÇêÇTÇVÇUÅ@ê⁄çáóeó ÇÊÇËÅ@óeó ÇæÇØê≥ämÅI
*íËìdà≥É_ÉCÉIÅ[Éh
.model	d05z5_3 D (IS=0.5uA RS=60 BV=3.00 IBV=0.5uA
+                   CJO=186pF Vj=14.233 M=3.948)
.model	d05z5_5 D (IS=0.5uA RS=40 BV=5.00 IBV=0.5uA
+                   CJO=83pF Vj=0.2539 M=0.324)
.model	d05z5_75 D(IS=0.5uA RS=12 BV=7.50 IBV=0.5uA
+                   CJO=39pF Vj=2.808  M=0.753)
.model	d05z5_10 D(IS=0.5uA RS=20 BV=10.0 IBV=0.5uA
+                   CJO=23pF Vj=8.0    M=1.0  )
.model	d05z5_15 D(IS=0.5uA RS=30 BV=15.0 IBV=0.5uA
+                   CJO=18pF Vj=14.865 M=2.341)

*ÇkÇdÇcÅ@(1.6V/2mA 1.7V/10mA 1.8V/30mA)
.model	dGaAlAs D(IS=6.97e-15 N=2.35 RS=1.3772 BV=15.0 IBV=0.5uA
+                   CJO=38pF Vj=0.6323 M=0.323)
*ÇkÇdÇcÅ@(1.7V/1mA 1.8V/3mA 2V/14mA)
.model	dGaP  D(IS=7.33e-15 N=2.645 RS=1.472 BV=15.0 IBV=0.5uA
+                   CJO=19pF Vj=0.6323 M=0.322)
*-------------------------------------------------------------
*200V Valister
.model	dvali200 D(IS=0.5uA RS=30 BV=200v IBV=0.5uA
+                   CJO=18pF Vj=14.865 M=2.341)

*1.8V limit diode
.model	d18v D(IS=1e-29 RS=1 N=1.16473 BV=15.0 IBV=0.5uA
+                   CJO=19pF Vj=0.6323 M=0.322)
*-------------------------------------------------------------
*------------------------
*ÉåÅ[ÉUÅ[   1=ÉRÉÇÉìÅAÉåÅ[ÉUÅ[Å{Å@2=ÉåÅ[ÉUÅ[ïâ 3=ÉZÉìÉXìdó¨åπ
*------------------------
.subckt dl3038a 1 2 3
.model  dp D(RS=2.36 CJO=9.96pf VJ=0.9140 M=0.4199 )
*GaAlAs Type
.model	dr D(IS=6.97e-15 N=2.35 RS=1.3772 BV=15.0 IBV=0.5uA
+                   CJO=38pF Vj=0.6323 M=0.323)
d1  1   4   dr
rt  4   2   1
d2  3   1   dp
gp0 1   3   table {V(4,2)}= (0mV,0mA) (40mV,0mA) (100mV,1.2mA) 
.ends
*-------------------------------------------------------------
* End of library file
